US08633322B2
To a solution of tert-butyl 4-(3-(5-(1,3-dioxoisoindolin-2-yl)pent-1-ynyl)phenoxy)piperidine-1-carboxylate (10.65 g, 21.8 mmol) in ethanol (100 ml) was added hydrazine (2.1 g, 65.4 mmol). The resulting solution was heated under reflux for two hours, then cooled to room temperature, filtered and concentrated. The residue was dissolved in ethyl acetate (200 ml). The resulting solution was extracted with water twice, brine once, then dried over magnesium sulfate. The resulting solution was filtered and concentrated to yield tert-butyl 4-(3-(5-aminopent-1-ynyl)phenoxy)piperidine-1-carboxylate as a brown oil. MH+ 359.33

reactant | tert-butyl 4-(3-(5-(1,3-dioxoisoindolin-2-yl)pent-1-ynyl)phenoxy)piperidine-1-carboxylate | 21.8 mmol, 10.65 g | O=C1N(C(C2=CC=CC=C12)=O)CCCC#CC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C29H32N2O5
reactant | hydrazine | 65.4 mmol, 2.1 g | NN | H4N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | tert-butyl 4-(3-(5-aminopent-1-ynyl)phenoxy)piperidine-1-carboxylate | NCCCC#CC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C21H30N2O3
